US03932465
A 10% suspension of 0.100 g of 3-(5-methoxycarbonyl-furfuryl)-7-amino-ceph-3-em-4-carboxylic acid and 0.0644 g of tri-n-butylamine in absolute dimethylformamide is treated with a 5% solution of 0.0633 g of 2-chloroethylisocyanate. The reaction mixture is vibrated in an ultrasonics bath for 90 minutes at room temperature. The yellowish brown reaction solution is evaporated to dryness under a high vacuum and the residue is partitioned several times between 25 ml of a 0.5 molar aqueous dipotassium hydrogen phosphate solution and 10 ml of ethyl acetate. The aqueous extracts are covered with fresh ethyl acetate, acidified to pH 2 by dropwise addition of 5-molar aqueous phosphoric acid and extracted with three portions of ethyl acetate. The organic extracts are washed with water, dried over anhydrous magnesium sulphate and evaporated under reduced pressure. The residue is placed onto preparative thin-layer plates (silica gel, with fluorescence indicator). The plates are developed during approximately 5 hours in the system n-butanol/glacial acetic acid/water (44:12:44). After drying, the main band absorbing ultraviolet light (λ = 254 mμ) is scraped from the plates and extracted several times with acetone. The extracts are filtered through a filter having a diatomaceous earth preparation as filter auxiliary and evaporated to dryness. The 7β-(2-chloroethylamino-carbonyl)-amino-3-(5-methoxycarbonyl-furfuryl)-ceph-3-em-4-carboxylic acid is obtained in the form of a glassy, colourless residue; ultraviolet absorption spectrum (95% aqueous ethanol): λmax = 269 mμ (ε = 22100).

reactant | 3-(5-methoxycarbonyl-furfuryl)-7-amino-ceph-3-em-4-carboxylic acid | 0.100 g | COC(=O)C1=CC=C(CC=2CS[C@H]3N(C2C(=O)O)C(C3N)=O)O1 | C14H14N2O6S
reactant | tri-n-butylamine | 0.0644 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2-chloroethylisocyanate | 0.0633 g | ClCCN=C=O | C3H4ClNO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7β-(2-chloroethylamino-carbonyl)-amino-3-(5-methoxycarbonyl-furfuryl)-ceph-3-em-4-carboxylic acid | ClCCNC(=O)[C@H]1[C@@H]2N(C(=C(C(S2)N)CC2=CC=C(O2)C(=O)OC)C(=O)O)C1=O | C17H18ClN3O7S
